US05556860
(b) Synthesis of 3-[2-(diethylamino)ethyl]-4-(3-hydroxy-phenyl)-3,4-dihydro-2(1H)-quinazolinone
To a solution of 2.0 g (4.66 mmol) of 3-[2(diethylamino)ethyl]-4-(3-benzyloxyphenyl)-3,4-dihydro-2(1H)-quinazolinone in 100 mL of methanol was added 200 mg of 5 % palladium-carbon, and the mixture was stirred for 5 hours under a hydrogen atmosphere at ambient temperature. The reaction mixture was filtered through cerite, and the filtrate was concentrated in vacuo. The crystals formed was recrystallized from methanol to give 1.30 g (3.83 mmol) of the title compound.

reactant | 3-[2(diethylamino)ethyl]-4-(3-benzyloxyphenyl)-3,4-dihydro-2(1H)-quinazolinone | 4.66 mmol, 2.0 g | C(C)N(CCN1C(NC2=CC=CC=C2C1C1=CC(=CC=C1)OCC1=CC=CC=C1)=O)CC | C27H31N3O2
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | 3-[2-(diethylamino)ethyl]-4-(3-hydroxy-phenyl)-3,4-dihydro-2(1H)-quinazolinone | 3.83 mmol, 1.30 g | C(C)N(CCN1C(NC2=CC=CC=C2C1C1=CC(=CC=C1)O)=O)CC | C20H25N3O2
